US07319152B2
3,3-dimethyl-5-(3-methylphenyl)indan-1-one
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 3-methylphenyl boronic acid according to the procedure described in example 21. MS (ES) m/z 251.2; HRMS: calcd for C18H18O+H+, 251.14304; found (ESI, [M+H]+), 251.1428.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 3-methylphenyl boronic acid | CC=1C=C(C=CC1)B(O)O | C7H9BO2
product | 3,3-dimethyl-5-(3-methylphenyl)indan-1-one | CC1(CC(C2=CC=C(C=C12)C1=CC(=CC=C1)C)=O)C | C18H18O
